US07825128B2
19) (S)-2-tert-butoxycarbonylamino-4-(2-chloro-5-thiophen-2-yl-pyrimidine-4-ylamino)-butyric acid tert-butyl ester
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodo-pyrimidine, (S)-2-tert-butoxycarbonylamino-4-methylaminobutyric acid tert-butyl ester and 2-thiophenboronic acid.

reactant | 2,4-dichloro-5-iodo-pyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | (S)-2-tert-butoxycarbonylamino-4-methylaminobutyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CCNC)NC(=O)OC(C)(C)C)=O | C14H28N2O4
reactant | 2-thiophenboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | (S)-2-tert-butoxycarbonylamino-4-(2-chloro-5-thiophen-2-yl-pyrimidine-4-ylamino)-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](CCNC1=NC(=NC=C1C=1SC=CC1)Cl)NC(=O)OC(C)(C)C)=O | C21H29ClN4O4S
